US04025637
A mixture of 3-amino-4-hydroxyhydratroponitrile (10 g.), mandelic acid (14 g.) and xylene (300 ml.) was heated using a Dean and Stark apparatus for 24 hours. The solution was filtered, evaporated to dryness and the residue dissolved in chloroform. The solution was washed with acid and base, dried over sodium carbonate and was eluted down a silica gel column with ether to give 2-[2-(α-hydroxybenzyl)-5-benzoxazolyl] propionitrile, the structure of which was confirmed by n.m.r. spectroscopy.

reactant | 3-amino-4-hydroxyhydratroponitrile | 10 g | NC=1C=C(C(C#N)C)C=CC1O | C9H10N2O
reactant | mandelic acid | 14 g | C(C(O)C1=CC=CC=C1)(=O)O | C8H8O3
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-[2-(α-hydroxybenzyl)-5-benzoxazolyl] propionitrile | OC(C1=CC=CC=C1)C=1OC2=C(N1)C=C(C=C2)C(C#N)C | C17H14N2O2
